US07256198B2
Step 2: 5′-{[(2R)-2-(Methoxymethyl)pyrrolidin-1-yl]sulfonyl}spiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one
To a rapidly and efficiently stirred mixture of 5-{[(2R)-2-(methoxymethyl)pyrrolidin-1-yl]sulfonyl}-1H-indole-2,3-dione (4.21 g, 13.0 mmol) in benzene (300 mL), was added 1,3-propanediol (3.81 mL, 52 mmol, 4 eq) and p-toluenesulfonic acid (0.989 g, 5.2 mmol, 0.4 mole % ) and the reaction was refluxed with a Dean Stark Trap for 4.5 hours under a dry N2 atmosphere. After cooling to room temperature the reaction was washed with sat. aq. NaHCO3 (3×), water (3×), brine (3×), dried over MgSO4, and concentrated. The crude product was purified on Biotage KP silica gel eluting with 50/50 Pet ether/EtOAc to give the title compound as a white solid (1.34 g, 27% yield). NMR (400 MHz, DMSO-d6): consistent; MS: (API-ES−) m/z 381 [M−H]. MS: (API+ES+) m/z 383 [M+H].

reactant | 5-{[(2R)-2-(methoxymethyl)pyrrolidin-1-yl]sulfonyl}-1H-indole-2,3-dione | 13.0 mmol, 4.21 g | COC[C@@H]1N(CCC1)S(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=O | C14H16N2O5S
reactant | 1,3-propanediol | 52 mmol, 3.81 mL, 4 eq | C(CCO)O | C3H8O2
reactant | p-toluenesulfonic acid | 5.2 mmol, 0.989 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 300 mL | C1=CC=CC=C1 | C6H6
product | 5′-{[(2R)-2-(Methoxymethyl)pyrrolidin-1-yl]sulfonyl}spiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one | 1.34 g, 27% yield | COC[C@@H]1N(CCC1)S(=O)(=O)C=1C=C2C3(C(NC2=CC1)=O)OCCCO3 | C17H22N2O6S
